US09290440B2
Methyl cis-4-((E)-2-phenylvinyl)cyclohexane carboxylate
Benzyltriphenylphosphonium bromide (2.94 g) was dissolved in THF (23.0 mL), added at −20° C. with potassium tert-butoxide (1.07 g) in small portions, and stirred for 1 hour at the same temperature. Subsequently, a THF (6.0 mL) solution of methyl cis-4-formylcyclohexane carboxylate (1.00 g) was added dropwise over 35 minutes, and stirred for 1.6 hours at the same temperature. After raising the temperature to room temperature, it was stirred after adding water and extracted with toluene. The organic layer was washed with water and saturated brine in order. After drying over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure. The residues were purified by silica gel column chromatography (9% ethyl acetate/hexane) to obtain the title compound (268 mg) as a colorless oil.

reactant | Benzyltriphenylphosphonium bromide | 2.94 g | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 1.07 g | CC(C)([O-])C.[K+]
reactant | methyl cis-4-formylcyclohexane carboxylate | 1.00 g | C(=O)[C@H]1CC[C@H](CC1)C(=O)OC | C9H14O3
reactant | water | O | H2O
solvent | THF | 23.0 mL | C1CCOC1 | C4H8O
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | Methyl cis-4-((E)-2-phenylvinyl)cyclohexane carboxylate | 268 mg | C1(=CC=CC=C1)/C=C/[C@H]1CC[C@H](CC1)C(=O)OC | C16H20O2
